US07147935B2
In a 200 ml-three-necked flask, 3.40 g (25.0 mmole) of 4-methylphenylboronic acid (made by Aldrich Co.), 4.09 g (25.0 mmole) of 1-chloroisoquinoline, 25 ml of toluene, 12.5 ml of ethanol and 25 mol of 2M-sodium carbonate aqueous solution were placed and stirred at room temperature under nitrogen stream, and 0.98 g (0.85 mmole) of tetrakis(triphenylphosphine)-palladium (0) was added thereto. Thereafter, reflux under stirring was performed for 8 hours under nitrogen stream. After completion of the reaction, the reaction product was cooled and extracted by addition of cold water and toluene. The organic layer was washed with saline water and dried on magnesium sulfate, followed by removal of the solvent under a reduced pressure to provide dry solid. The residue was purified by silica gel column chromatography (eluent: chloroform/methanol=10/1) to obtain 2.80 g (yield=51.1%) of 1-(4-methylphenyl)isoquinoline.

reactant | 4-methylphenylboronic acid | 25.0 mmole, 3.40 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | 1-chloroisoquinoline | 25.0 mmole, 4.09 g | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)-palladium (0) | 0.85 mmole, 0.98 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethanol | 12.5 ml | C(C)O | C2H6O
product | 1-(4-methylphenyl)isoquinoline | 2.80 g, yield=51.1% | CC1=CC=C(C=C1)C1=NC=CC2=CC=CC=C12 | C16H13N
